US06677349B1
Triethylamine (1.1 g, 15.9 mmol) was added to a cooled (0° C.) solution of 1-(2-aminoethyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (3.0 g, 10.6 mmol) in 1-methyl-2-pyrrolidinone (100 mL). A solution of tosyl chloride (2.11 g, 11.1 mmol) in 1-methyl-2-pyrrolidinone (20 mL) was slowly added in a dropwise fashion. The reaction was allowed to warm to ambient temperature and was maintained overnight. The reaction was poured into water (1500 mL) and adjusted to pH 9. A white precipitate was isolated by filtration and then recrystallized from acetonitrile (60 mL) to provide 3.9 g of N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-4-methylbenzenesulfonamide, m.p. 187.0-188.0° C. Analysis: Calculated for C23H27N5O2S.0.3 H2O: %C, 62.29; %H, 6.28; %N, 15.79; Found: %C, 62.52; %H, 6.36; %N, 15.88.

reactant | Triethylamine | 15.9 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-(2-aminoethyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 10.6 mmol, 3.0 g | NCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C16H21N5
reactant | tosyl chloride | 11.1 mmol, 2.11 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 1500 mL | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-4-methylbenzenesulfonamide | 3.9 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCNS(=O)(=O)C2=CC=C(C=C2)C)CCCC | C23H27N5O2S
